US05817671
N-[methyl]-N'-[3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridin-5-yl]urea
A solution of 0.15 gm (0.65 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.046 mL (0.78 mMol) methyl isocyanate in 6 mL 5:1 tetrahydrofuran:dimethylformamide was stirred at room temperature for 5 hours. At this point an additional 0.020 mL methyl isocyanate were added and stirring continued for another 3.5 hours. The reaction mixture was then concentrated under reduced pressure. The residue was partitioned between 3:1 chloroform:isopropanol and 1N sodium hydroxide. The phases were separated and the aqueous phase extracted well with 3:1 chloroform:isopropanol. The organic phases were combined, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to radial chromatography (2 mm silica gel plate), eluting with dichloromethane containing from 20-40% methanol and 1% ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure. The residue was crystallized from aqueous ethanol to provide 0.043 gm (34%) of the title compound.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.65 mMol, 0.15 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | methyl isocyanate | 0.78 mMol, 0.046 mL | CN=C=O | C2H3NO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methyl isocyanate | 0.020 mL | CN=C=O | C2H3NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[methyl]-N'-[3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridin-5-yl]urea | 0.043 gm, 34% | CNC(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C15H21N5O
